US05599770
Synthesis of 4-ethoxy-6-methyl-2-(phenylmethyl)pyrimidine (Compound I-361)
To benzyl alcohol (Compound II-64) (0.35 g, 0.0016×2.0 mol) in tetrahydrofuran, sodium hydride (0.085 g, (60% in mineral oil), 0.0016×1.3 mol) and 4-ethoxy-6-methyl-2-(methylsulfonyl)pyrimidine (Compound III-44) (0.35 g, 0.0016 mol) prepared as described in Reference synthesis example 1 below were successively added and the solution was allowed to react for about 1 hour at room temperature.

reactant | benzyl alcohol | 2.0 mol, 0.35 g | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium hydride | 1.3 mol, 0.085 g | [H-].[Na+]
reactant | 4-ethoxy-6-methyl-2-(methylsulfonyl)pyrimidine | 0.0016 mol, 0.35 g | C(C)OC1=NC(=NC(=C1)C)S(=O)(=O)C | C8H12N2O3S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-ethoxy-6-methyl-2-(phenylmethyl)pyrimidine | C(C)OC1=NC(=NC(=C1)C)CC1=CC=CC=C1 | C14H16N2O
